US08895582B2
To a solution of (S)-methyl 4-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-5-(6-fluoroisoquinolin-3-ylcarbamoyloxy)pentanoate (400 mg, 0.748 mmol, 1.0 equiv.) in 1,4-dioxane (1 mL) was added LiOH (2 N, 1.5 mL, 2.99 mmol, 4.0 equiv.). The reaction mixture was stirred at RT for 1 h., then was acidified to pH 1-3 with HCl (1 N). The mixture was diluted in EtOAc. The organic layer was washed by H2O and brine, and concentrated. The resulting residue was purified on RP-HPLC using a mixture of acetonitrile and H2O to give (S)-4-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-5-(6-fluoroisoquinolin-3-ylcarbamoyloxy)pentanoic acid (340 mg, 87%). LRMS (M+H+) m/z 521.2.

reactant | (S)-methyl 4-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-5-(6-fluoroisoquinolin-3-ylcarbamoyloxy)pentanoate | 0.748 mmol, 400 mg, 1.0 equiv. | ClC1=C(CNC(N(C)[C@@H](CCC(=O)OC)COC(NC=2N=CC3=CC=C(C=C3C2)F)=O)=O)C=CC=C1F | C25H25ClF2N4O5
reactant | LiOH | 2.99 mmol, 2 N, 1.5 mL, 4.0 equiv. | [Li+].[OH-]
reactant | HCl | 1 N | Cl | ClH
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-4-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-5-(6-fluoroisoquinolin-3-ylcarbamoyloxy)pentanoic acid | 340 mg, 87% | ClC1=C(CNC(N(C)[C@@H](CCC(=O)O)COC(NC=2N=CC3=CC=C(C=C3C2)F)=O)=O)C=CC=C1F | C24H23ClF2N4O5
